US04786646
A solution of 160 g of crude [S-(R*,R*)]-alpha-hydroxy-N-[1-methyl-4-(3-pyridinyl)butyl]benzeneacetamide in 800 mL of 6N HCl was treated with 85 mL conc. HCl and then was heated at reflux overnight as described in Example 16. The crude amine (~85 g), isolated in the normal manner, was distilled to furnish 76.4 g of (S)-alpha-methyl-3-pyridinebutanamine, (60%ee; bp 89°-91°/0.15 mm).

reactant | alpha-hydroxy-N-[1-methyl-4-(3-pyridinyl)butyl]benzeneacetamide | OC(C(=O)NC(CCCC=1C=NC=CC1)C)C1=CC=CC=C1 | C18H22N2O2
solvent | HCl | 6N, 800 mL | Cl | ClH
solvent | HCl | 85 mL | Cl | ClH
product | (S)-alpha-methyl-3-pyridinebutanamine | 76.4 g | C[C@@H](CCCC=1C=NC=CC1)N | C10H16N2
